US06417192B1
1-Bromo-8-(4-fluorophenyl)octane
Triethylsilane (30.5 g, 260 mmol) was added dropwise to 8-bromo-1-(4-fluorophenyl)octan-1-one (230 ml, 105 mmol) over 20 min, with cooling to keep the temperature at ca 30° C. After 2 hours stirring, a further 3.1 g (27 mmol) triethylsilane was added, and reaction continued for an additional 2 hours. The mixture was poured into ice-water (200 ml) and ether (300 ml), then the organic layer was washed with aqueous sodium hydroxide. dried and evaporated, finally at 65° C./0.01 mm. The residue was filtered through silica gel, eluting with petroleum ether, then distilled, collecting the fraction at 122-140° C./0.5 mm (24.2 g). 1H-NMR (CDCl3) δ 1.2-1.7 (10H, m), 1.85 (2H, m), 2.57 (2H, t), 3.40 (2H, t), 6.9-7.05 (2H, m) and 7.05-7.2 (2H, m).

reactant | Triethylsilane | 260 mmol, 30.5 g | C(C)[SiH](CC)CC | C6H16Si
reactant | 8-bromo-1-(4-fluorophenyl)octan-1-one | 105 mmol, 230 ml | BrCCCCCCCC(=O)C1=CC=C(C=C1)F | C14H18BrFO
reactant | triethylsilane | 27 mmol, 3.1 g | C(C)[SiH](CC)CC | C6H16Si
solvent | ether | 300 ml | CCOCC | C4H10O
product | 1-Bromo-8-(4-fluorophenyl)octane | BrCCCCCCCCC1=CC=C(C=C1)F | C14H20BrF
